US06855710B2
(Z)-3-[1-(3-methylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 8 from (Z)-3-{1-[3-(N-trifluoroacetyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone and sodium hydroxide solution in methanol.

reactant | (Z)-3-{1-[3-(N-trifluoroacetyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | FC(C(=O)N(C)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)(F)F | C24H18F3N3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (Z)-3-[1-(3-methylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | CNC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H19N3O
